US04902698
(c) Methyl 4-(5-aminopyrid-2-yl)butanoate
Hydrazine hydrate (10 ml) in ethanol (20 ml) was added over 30 minutes to a stirred suspension of 4-(5-nitropyrid-2-yl)butanoic acid (7.5 g, 0.036 mole) and 10% palladium on carbon (1 g) in ethanol (100 ml). The solution was stirred for 1 hour, filtered through hyflo and the filtrate was evaporated to dryness. The residue was dissolved in methanol (250 ml) containing concentrated sulphuric acid (20 ml) and the resulting solution was refluxed for 4 hours, cooled and the solvent was removed under reduced pressure. The residue was dissolved in water (100 ml), basified and extracted with chloroform (3×100 ml). The chloroform extracts were combined, dried over magnesium sulphate, and evaporated to dryness. The residue was distilled in a kugelrohr apparatus (oven temp. 145° C. at 0.05 mmHg) to give the title compound 3.84 g as a straw coloured oil.

reactant | Hydrazine hydrate | 10 ml | O.NN
reactant | 4-(5-nitropyrid-2-yl)butanoic acid | 0.036 mole, 7.5 g | [N+](=O)([O-])C=1C=CC(=NC1)CCCC(=O)O | C9H10N2O4
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | Methyl 4-(5-aminopyrid-2-yl)butanoate | 3.84 g | NC=1C=CC(=NC1)CCCC(=O)OC | C10H14N2O2
